US05889026
4-(tert-Butyl-dimethyl-silanyloxy)-phenylamine (2.23 g, 10 mmol) was dissolved in acetone (25 ml). After addition of Na2CO3 (3.2 g, 30 mmol), chloroacetylchloride (0.96 ml, 12 mmol) was added dropwise. After 1 hour at room temperature, the reaction mixture was quenched with H2O (100 ml) and the aqueous phase was extracted with CH2Cl2 (3×10 ml). Combined organic phases were dried over Na2SO4 and concentrated. The residue was chromatographed over silica gel (hexane-ethyl acetate 9:1 then hexane-ethyl acetate 4:1) to provide N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-2-chloro-acetamide (2.55 g, 71%) as a colorless solid, m.p. 107°-108° C. and MS: m/e=299 (M+).

reactant | 4-(tert-Butyl-dimethyl-silanyloxy)-phenylamine | 10 mmol, 2.23 g | C(C)(C)(C)[Si](OC1=CC=C(C=C1)N)(C)C | C12H21NOSi
reactant | Na2CO3 | 30 mmol, 3.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | chloroacetylchloride | 12 mmol, 0.96 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | N-[4-(tert-Butyl-dimethyl-silanyloxy)-phenyl]-2-chloro-acetamide | 2.55 g, 71% | C(C)(C)(C)[Si](OC1=CC=C(C=C1)NC(CCl)=O)(C)C | C14H22ClNO2Si
